US07368578B2
To a solution of ethyl (3-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate (13.91 g) in tetrahydrofuran (200 mL)-ethanol (20 mL) was gradually added sodium borohydride (640 mg) at 0° C. After stirring at room temperature for 2 hrs, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated to give ethyl (3-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate as colorless crystals (13.20 g, yield 94%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 96-98° C.

reactant | ethyl (3-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate | 13.91 g | C(=O)C1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C=CC2)CC(=O)OCC)C=C1)OC | C23H23NO6
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | sodium borohydride | 640 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | ethyl (3-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate | 13.20 g, yield 94% | OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C=CC2)CC(=O)OCC)C=C1)OC | C23H25NO6
